US04748173
To a solution of 500 mgs of morpholinoethyl (E)-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate in 10 ml of benzene cooled in an ice bath is added 0.1 ml of pyridine and 6 ml of a 12.5% solution of phosgene in benzene. The solution is stirred at 25° C. overnight, the precipitate filtered off and solvent removed from the filtrate under reduced pressure. The residue is dissolved in 5 ml of tetrahydrofuran and to this solution is added dropwise a solution of ammonia in tetrahydrofuran until the reaction is complete. The mixture is poured into water and extracted with ethyl acetate. The organic solution is dried over magnesium sulfate and evaporated to an oil which is chromatographed on silica gel, eluting with a 50:1 mixture of dichloromethane and methanol. The purified product is stirred with a mixture of ether and hexane and filtered giving morpholinoethyl (E)-6-(1,3-dihydro-4-carbamoyloxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate.

reactant | morpholinoethyl (E)-6-(1,3-dihydro-4-hydroxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate | 500 mgs | OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OCCN1CCOCC1)\C)OC)C)=O | C23H31NO7
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | morpholinoethyl (E)-6-(1,3-dihydro-4-carbamoyloxy-6-methoxy-7-methyl-3-oxo-5-isobenzofuranyl)-4-methyl-4-hexenoate | C(N)(=O)OC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OCCN1CCOCC1)\C)OC)C)=O | C24H32N2O8
